US06831193B2
N-(3,5-dibromobenzyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
3,5-Dibromobenzaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 3,5-Dibromobenzaldehyde | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-(3,5-dibromobenzyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | BrC=1C=C(CN[C@H]2CCCC3=CC=CC=C23)C=C(C1)Br | C17H17Br2N
